US09388189B2
a) 4-Methoxy-N-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-4-yl)benzenesulfonamide
N-(6-Chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-4-yl)-4-methoxy benzenesulfonamide (600 mg, 1.09 mmol), bis(pinacolato)diboron (554 mg, 2.18 mmol), potassium acetate (321 mg, 3.28 mmol), bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (89 mg, 0.11 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (104 mg, 0.22 mmol) were suspended in dioxane (10 ml) and heated overnight to 120° C. After evaporation the solvent under reduced pressure, ethyl acetate (100 ml) was added to the residue and the precipitated salts were eliminated by filtration. The solvent was evaporated under reduced pressure and the residue was purified by flash chromatography (0% to 50%, hexane-ethyl acetate) to obtain 560 mg (78% yield) of the title compound. Purity 85%.

reactant | N-(6-Chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-4-yl)-4-methoxy benzenesulfonamide | 1.09 mmol, 600 mg | ClC1=CC(=C2C=CN(C2=C1)COCC[Si](C)(C)C)NS(=O)(=O)C1=CC=C(C=C1)OC | C21H27ClN2O4SSi
reactant | bis(pinacolato)diboron | 2.18 mmol, 554 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.28 mmol, 321 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.22 mmol, 104 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 4-Methoxy-N-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-4-yl)benzenesulfonamide | 560 mg, 78% yield | COC1=CC=C(C=C1)S(=O)(=O)NC1=C2C=CN(C2=CC(=C1)B1OC(C(O1)(C)C)(C)C)COCC[Si](C)(C)C | C27H39BN2O6SSi
